### PR TITLE
Fix sorry for Lemma 10.0.2 -- task 127

### PR DESCRIPTION
**Pull request by jim-portegies**

### CODE REVIEW

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 1]
```diff
@@ -823,13 +823,58 @@ theorem simple_nontangential_operator (ha : 4 ≤ a)
...
+    _ ≤ ∑' i, μ {x | sInf {a | μ {x | a < f i x} = 0} < f i x} := by
+      gcongr with i; apply le_iSup _ i
+    _ ≤ ∑' i, μ {x | eLpNormEssSup (f i) μ < ‖f i x‖ₑ} := by
+      gcongr with i; rw [eLpNormEssSup, essSup_eq_sInf]; rfl
+    _ = ∑' i, 0 := by congr with i; exact meas_eLpNormEssSup_lt
+    _ = 0 := by simp
+
 /-- Monotone convergence applied to eLpNorms. AEMeasurable variant.
-  Possibly imperfect hypotheses, particularly on `p`. -/
+  Possiblys imperfect hypotheses, particularly on `p`. Note that for `p = ∞` the stronger
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean]:
```suggestion
  Possibly imperfect hypotheses, particularly on `p`. Note that for `p = ∞` the stronger

**Comment by grunweg** [comment]
Otherwise looks good to me!

**Comment by grunweg** [comment]
Thanks!
